US08110581B2
Step 3. 7-[5-(trifluoromethyl)pyridin-2-yl]-2,7-diazaspiro[4.5]decan-1-one
A mixture of 2,7-diazaspiro[4.5]decan-1-one (50.0 mg, 0.000324 mol), 2-chloro-5-(trifluoromethyl)pyridine (71 mg, 0.00039 mol) and N,N-diisopropylethylamine (0.17 mL, 0.00097 mol) in N-methylpyrrolidinone (2 mL, 0.02 mol) was irradiated with microwaves at 180° C. for 20 min. The product was purified by prep-HPLC. LC-MS: 300.2 (M+H)+.

reactant | 2,7-diazaspiro[4.5]decan-1-one | 0.000324 mol, 50.0 mg | C1(NCCC12CNCCC2)=O | C8H14N2O
reactant | 2-chloro-5-(trifluoromethyl)pyridine | 0.00039 mol, 71 mg | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | N,N-diisopropylethylamine | 0.00097 mol, 0.17 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-methylpyrrolidinone | 0.02 mol, 2 mL | CN1C(CCC1)=O | C5H9NO
product | 7-[5-(trifluoromethyl)pyridin-2-yl]-2,7-diazaspiro[4.5]decan-1-one | FC(C=1C=CC(=NC1)N1CC2(CCNC2=O)CCC1)(F)F | C14H16F3N3O
